US06218431B1
2-Cyclopentyl-6-ethyl-4-(4-fluorophenyl)-5-hydroxymethyl-3-(3-trifluoromethylbenzyloxymethyl)pyridine
A suspension of 30 mg (0.8 mmol) of lithium aluminum hydride in 10 ml of absol. tetrahydrofuran is heated under argon. After this, 212 mg (0.4 mmol) of 2-cyclopentyl-6-ethyl-4-(4-fluorophenyl)-3-(3trifluoromethylbenzyloxymethyl)-pyridine-5-carboxylic acid ethylester dissolved in 10 ml of absolute tetrahydrofuran is added. Next, the mixture is refluxed for 1 h. After cooling to room temperature, 10 ml of a 10% potassium hydroxide solution is added. The resulting sediment is drawn off by suction and boiled off several times with 10 ml of diethyl ether. The combined mother liquors are dried with sodium sulfate, concentrated in a vacuum, and chromatographed over silica gel (mobile solvent ethyl acetate/petroleum ether 2:8).

reactant | lithium aluminum hydride | 0.8 mmol, 30 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 2-cyclopentyl-6-ethyl-4-(4-fluorophenyl)-3-(3trifluoromethylbenzyloxymethyl)-pyridine-5-carboxylic acid ethylester | 0.4 mmol, 212 mg | C(C)OC(=O)C=1C(=C(C(=NC1CC)C1CCCC1)COCC1=CC(=CC=C1)C(F)(F)F)C1=CC=C(C=C1)F | C30H31F4NO3
reactant | potassium hydroxide | [OH-].[K+]
reactant | diethyl ether | 10 ml | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 2-Cyclopentyl-6-ethyl-4-(4-fluorophenyl)-5-hydroxymethyl-3-(3-trifluoromethylbenzyloxymethyl)pyridine | C1(CCCC1)C1=NC(=C(C(=C1COCC1=CC(=CC=C1)C(F)(F)F)C1=CC=C(C=C1)F)CO)CC | C28H29F4NO2
